US07915424B2
5-(3-Chloromethyl-4-fluorophenylethynyl)-nicotinonitrile
Add thionyl chloride (0.59 mL, 8.07 mmol) to a solution of 5-(4-fluoro-3-hydroxymethyl-phenylethynyl)-nicotinonitrile (1.85 g, 7.33 mmol), (prepared as described in EXAMPLE 142). After 3 h add an additional 0.2 mL of thionyl chloride and stir for another 1 h. Dilute the reaction mixture with ethyl acetate and wash with an aqueous saturated solution of sodium bicarbonate and an aqueous saturated solution of sodium chloride. Dry (sodium sulfate), filter, and concentrate. Purify the crude material by silica gel chromatography, eluting with a gradient from 85:15 to 75:25 hexanes:ethyl acetate, then elute with 50:50 hexanes:ethyl acetate to give the title compound. Further purify by additional silica gel chromatography, eluting with 90:10 (70:30 hexanes:dichloromethane):ethyl acetate. Combine clean fractions from both chromatographies and concentrate to give the title compound as a crystalline solid (1.5 g, 75%).

reactant | thionyl chloride | 8.07 mmol, 0.59 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 5-(4-fluoro-3-hydroxymethyl-phenylethynyl)-nicotinonitrile | 7.33 mmol, 1.85 g | FC1=C(C=C(C=C1)C#CC=1C=NC=C(C#N)C1)CO | C15H9FN2O
reactant | thionyl chloride | 0.2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(3-Chloromethyl-4-fluorophenylethynyl)-nicotinonitrile | ClCC=1C=C(C=CC1F)C#CC=1C=NC=C(C#N)C1 | C15H8ClFN2
